US06919365B2
3-Naphthylcarbonyl-1-(2-oxo-2-phenylethyl)-5,5-diphenylimidazolidine -2,4-dione (Compound 21)
3-Naphthylcarbonyl-5,5-diphenylimidazolidine-2,4-dione (100 mg) was dissolved in DMF (2 mL), 2-bromoacetophenone (52 mg) was added, and potassium carbonate (36 mg) was further added. The reaction solution was stirred at room temperature overnight. Ethyl acetate (100 mL) was added to the reaction solution, and the solution was washed with 1N hydrochloric acid, an aqueous saturated sodium bicarbonate solution and a saturated brine in turn. After the solution was dried over anhydrous magnesium sulfate, the solvent was distilled off. The resulting residue was recrystallized from IPE to obtain 69 mg of white crystals.

reactant | 3-Naphthylcarbonyl-5,5-diphenylimidazolidine-2,4-dione | 100 mg | C1(=CC=CC2=CC=CC=C12)C(=O)N1C(NC(C1=O)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C26H18N2O3
reactant | 2-bromoacetophenone | 52 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | potassium carbonate | 36 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-Naphthylcarbonyl-1-(2-oxo-2-phenylethyl)-5,5-diphenylimidazolidine -2,4-dione | 69 mg | C1(=CC=CC2=CC=CC=C12)C(=O)N1C(N(C(C1=O)(C1=CC=CC=C1)C1=CC=CC=C1)CC(C1=CC=CC=C1)=O)=O | C34H24N2O4
